US05041453
To a stirred solution of 2-cyano-6-methylbenzoxazole (2.0 g, 12.66 mmol) in carbon tetrachloride (50 ml) at room temperature are added successively N-bromosuccinimide (2.37 g, 13.3 mmol) and benzoyl peroxide (30.7 mg, 0.13 mmol). The solution is irradiated with a sun-lamp for 2 hours and concentrated. The residue is dissolved in 500 ml of ether and the solution filtered. The filtrate is concentrated and subjected to HPLC (2% ethyl acetate in hexane) to afford 2-cyano-6-bromomethylbenzoxazole which is used directly in the next step.

reactant | 2-cyano-6-methylbenzoxazole | 12.66 mmol, 2.0 g | C(#N)C=1OC2=C(N1)C=CC(=C2)C | C9H6N2O
reactant | N-bromosuccinimide | 13.3 mmol, 2.37 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.13 mmol, 30.7 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-cyano-6-bromomethylbenzoxazole | C(#N)C=1OC2=C(N1)C=CC(=C2)CBr | C9H5BrN2O
